US08497397B2
(6c) 4-(Cyclopropyloxy)benzaldehyde
To a solution of THF (350 mL) containing this crude product (36.0 g, 165 mmol), n-butyllithium (116 mL, 1.56 M hexane solution, 181 mmol) was added at −66° C. over 40 minutes under a nitrogen atmosphere. The mixture was stirred at the same temperature for 1 hour. Then, DMF (23.6 g, 323 mmol) was added dropwise to the reaction solution over 12 minutes. The mixture was stirred at the same temperature for 30 minutes and left standing at room temperature overnight, and then a saturated ammonium chloride aqueous solution (150 mL) was added dropwise thereto over 5 minutes. The organic layer was separated and was washed with a saturated ammonium chloride aqueous solution (100 mL) and saturated brine (100 mL). The washing solution was combined and was extracted with hexane (200 mL). All organic layers were combined and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate, 9:1, v/v) to give 23.3 g of the title compound (light yellow oil, yield: 87%).

reactant | THF | 350 mL | C1CCOC1 | C4H8O
reactant | n-butyllithium | 181 mmol, 1.56 M, 116 mL | C(CCC)[Li]
reactant | DMF | 323 mmol, 23.6 g | CN(C)C=O | C3H7NO
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(Cyclopropyloxy)benzaldehyde | 23.3 g, yield: 87% | C1(CC1)OC1=CC=C(C=O)C=C1 | C10H10O2
